US06423704B1
Treat a solution of 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid (6.66 g, 26.5 mmol) and methanol (80 mL) under argon via syringe dropwise with thionyl chloride (2.9 mL, 40 mmol). Stir for three days and remove the methanol in vacuo. Purify the residue by flash chromatography (silica gel, 9.5×12.7 cm) eluting with 40% ethyl acetate in dichloromethane and then with ethyl acetate. Concentrate the desired fractions in vacuo to afford 4.55 g of 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid methyl ester.

reactant | 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid | 26.5 mmol, 6.66 g | COC1=C(C(=O)O)C=C(C=C1)N1C=NNC1=S | C10H9N3O3S
reactant | thionyl chloride | 40 mmol, 2.9 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 80 mL | CO | CH4O
product | 2-methoxy-5-(5-thioxo-1,5-dihydro-[1,2,4]triazol-4-yl)-benzoic acid methyl ester | 4.55 g | COC(C1=C(C=CC(=C1)N1C=NNC1=S)OC)=O | C11H11N3O3S
